US08058045B2
tert-Butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate
A solution of (E)-tert-Butyl 4-((5-((1-aminoethylideneaminooxy)carbonyl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (40 mg, 0.078 mmol) in pyridine (3 mL) was heated at 120° C. for 8 hr using microwave irradiation. After evaporation of the solvent, the crude product was purified by column chromatography (Biotage), eluting with EtOAc/n-hexane (1/1), to give the title compound as a yellow solid (9 mg, 23%).

reactant | (E)-tert-Butyl 4-((5-((1-aminoethylideneaminooxy)carbonyl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.078 mmol, 40 mg | N\C(\C)=N\OC(=O)C=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CCN(CC1)C(=O)OC(C)(C)C | C24H31N9O4
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 9 mg, 23% | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=NO1)C | C24H29N9O3
